US06498165B1
2-[(S)-1-Phenylethylamino]-4-[6-(4-ethoxycarbonyltriazol-1-yl)benzimidazol-1-yl]pyrimidine
The title compound was prepared from 266 mg of 2-[(S)-1-phenylethylamino]-4-[6-azidobenzimidazol-1-yl]pyrimidine, about 100 μL ethyl-3,3-dimethylaminoacrylate and 5 mL 1,4-dioxane using the procedure described in EXAMPLE 276 to give 283 mg of the title compound. RF: 0.4 (5% MeOH in CH2Cl2). 1H NMR (500 MHZ, DMSO): δ 1.33 (t, J=7.0 Hz, 3H), 1.50 (d, J=6.9 Hz, 3H), 4.38 (q, J=7.1 Hz, 2H), 5.24 (m, 1H), 7.05-7.45 (m, 5H), 7.87 (d, J=8.6 Hz, 1H), 7.94 (d, J=8.0 Hz, 1H), 8.2 (m, 1H), 8.44 (m, 1H), 8.91 (m, 1H), 9.14 (br s, 1H), 9.50 (s, 1H). Mass Spectrum (CH3CN-TFA-NH4HCO2-ESI): 455.2 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[6-azidobenzimidazol-1-yl]pyrimidine | 266 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)N=[N+]=[N-] | C19H16N8
reactant | ethyl-3,3-dimethylaminoacrylate | about 100 μL | C(C)OC(C=C(NC)NC)=O | C7H14N2O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-[(S)-1-Phenylethylamino]-4-[6-(4-ethoxycarbonyltriazol-1-yl)benzimidazol-1-yl]pyrimidine | 283 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)N2N=NC(=C2)C(=O)OCC | C24H22N8O2
